US06232290B1
A solution of methyl 4-[4-(4-bromobutoxy)phenyl]benzoate (1.40 g) in methanol (14 ml) was treated with 28% sodium methoxide in methanol (14 ml) and the solution was reluxed for 5 hours. After cooling to room temperature, the reaction mixture was poured into cold 1N-hydrochloric acid (110 ml) and the resulting precipitate was collected by filtration, washed thoroughly with water and dried to give a white solid. To a mixture of this solid in methanol (20 ml) was added concentrated sulfuric acid (0.5 ml) and refluxed for 4 hours. After cooling to room temperature, the reaction mixture was poured into cold water and the resulting precipitate was collected by filtration, washed thoroughly with water and dried to give methyl 4-[4-(4-methoxybutoxy)phenyl]benzoate (1.16 g) as a white solid.

reactant | methyl 4-[4-(4-bromobutoxy)phenyl]benzoate | 1.40 g | BrCCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C18H19BrO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 110 ml | Cl | ClH
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 14 ml | CO | CH4O
solvent | methanol | 14 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | methyl 4-[4-(4-methoxybutoxy)phenyl]benzoate | 1.16 g | COCCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C19H22O4
